datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"C[N+](C)(C)[N-:10]C(=O)c1ccc([N+](=O)[O-])cc1.O=C1NC(=O)[N:21]([H:20])C(=O)C1=NO>>C[N+](C)(C)[N:10](C(=O)c1ccc([N+](=O)[O-])cc1)[H:20].O=C1NC(=O)[N-:21]C(=O)C1=NO 10=20;20,21=21",
"CC[NH:10]Cc1ccccc1.O=C1SC2=C(C=CC=C2)[CH:21]1[H:20]>>CC[NH+:10](Cc1ccccc1)[H:20].O=C1SC2=C(C=CC=C2)[CH-:21]1 10=20;20,21=21",
"N[N:21](C(=O)C(F)(F)C1(F)OC(F)(F)C(F)(F)C1(F)F)[H:20].c1ccc(C2=[N:10]c3ccccc3CO2)cc1>>N[N-:21]C(=O)C(F)(F)C1(F)OC(F)(F)C(F)(F)C1(F)F.c1ccc(C2=[N+:10]([H:20])c3ccccc3CO2)cc1 10=20;20,21=21",
"CC[C@]12CCC[N+:21]3([H:20])CC[C@@]4(c5cccc(OC)c5N(C(C)=O)[C@H]4CC1)[C@H]23.CN1/C(=N\[NH2:10])Sc2ccccc21>>CC[C@]12CCC[N:21]3CC[C@@]4(c5cccc(OC)c5N(C(C)=O)[C@H]4CC1)[C@H]23.CN1/C(=N\[NH2+:10][H:20])Sc2ccccc21 10=20;20,21=21",
"Cc1ccc(S(=O)(=O)N(CC[NH2+]CC(=O)[O:21][H:20])CC(=O)O)cc1.FC(F)(F)c1ncnc2nc[n-:10]c12>>Cc1ccc(S(=O)(=O)N(CC[NH2+]CC(=O)[O-:21])CC(=O)O)cc1.FC(F)(F)c1ncnc2nc[n:10]([H:20])c12 10=20;20,21=21",
"O=C(C(c1ccc(C2CCCCC2)cc1)C(O)c1ccccc1)[O:21][H:20].O=[N+]([O-])c1ccc[n-:10]1>>O=C(C(c1ccc(C2CCCCC2)cc1)C(O)c1ccccc1)[O-:21].O=[N+]([O-])c1ccc[n:10]1[H:20] 10=20;20,21=21",
"O=C(C[C@]1(O)C[C@H]2C=C[C@@H]1C2)[O:21][H:20].O=C(c1cc(Br)cs1)[O-:10]>>O=C(C[C@]1(O)C[C@H]2C=C[C@@H]1C2)[O-:21].O=C(c1cc(Br)cs1)[O:10][H:20] 10=20;20,21=21",
"C[N+:21](C)(c1ccc(Br)cc1)[H:20].Clc1ccc(CO[NH2:10])cc1>>C[N:21](C)c1ccc(Br)cc1.Clc1ccc(CO[NH2+:10][H:20])cc1 10=20;20,21=21",
"Cc1cc(C)c2c(c1)c(N)cc(C)[n+:21]2[H:20].c1cc[n:10]c(-c2ccoc2)c1>>Cc1cc(C)c2c(c1)c(N)cc(C)[n:21]2.c1cc[n+:10]([H:20])c(-c2ccoc2)c1 10=20;20,21=21",
"CC(C)[NH+]1CCC(N[NH:10]C(C)C)CC1.Nc1nc2c(ncn2[C@H]2O[C@@H](CO)[C@H](O)[C@@H]2O)c([O-])[n+:21]1[H:20]>>CC(C)[NH+]1CCC(N[NH+:10](C(C)C)[H:20])CC1.Nc1nc2c(ncn2[C@H]2O[C@@H](CO)[C@H](O)[C@@H]2O)c([O-])[n:21]1 10=20;20,21=21",
"Cc1ccccc1/C(c1cccc2ccccc12)=[N:10]/CCC[NH+](C)C.Cn1ncc2c(Nc3ccccc3)nc[n+:21]([H:20])c21>>Cc1ccccc1/C(c1cccc2ccccc12)=[N+:10](/CCC[NH+](C)C)[H:20].Cn1ncc2c(Nc3ccccc3)nc[n:21]c21 10=20;20,21=21",
"COc1c(C(=O)[O-:10])oc2ccccc12.Cc1cc(C)[n+:21]([H:20])c(N)n1>>COc1c(C(=O)[O:10][H:20])oc2ccccc12.Cc1cc(C)[n:21]c(N)n1 10=20;20,21=21",
"COc1cc(NS(C)(=O)=O)ccc1-c1cn2cccnc2[n+:21]1[H:20].[NH3+]Cc1nnn[n-:10]1>>COc1cc(NS(C)(=O)=O)ccc1-c1cn2cccnc2[n:21]1.[NH3+]Cc1nnn[n:10]1[H:20] 10=20;20,21=21",
"CCNc1nc[n+:21]([H:20])c2[nH]ncc12.O=[N+]([O-])c1ccc([O-])c([O-:10])c1>>CCNc1nc[n:21]c2[nH]ncc12.O=[N+]([O-])c1ccc([O-])c([O:10][H:20])c1 10=20;20,21=21",
"CC(=O)c1ccccc1[O-:10].O=C([O-])C(CO)[NH2+]Cc1cc([N+](=O)[O-])ccc1[O:21][H:20]>>CC(=O)c1ccccc1[O:10][H:20].O=C([O-])C(CO)[NH2+]Cc1cc([N+](=O)[O-])ccc1[O-:21] 10=20;20,21=21",
"C[NH+](C)C(O)[O-:10].O=C(c1cccc([N+](=O)[O-])c1O)[O:21][H:20]>>C[NH+](C)C(O)[O:10][H:20].O=C(c1cccc([N+](=O)[O-])c1O)[O-:21] 10=20;20,21=21",
"Clc1ccc([NH2+:21][H:20])c(Cl)c1.[S-]c1nc2[nH]cnc2c[n:10]1>>Clc1ccc([NH2:21])c(Cl)c1.[S-]c1nc2[nH]cnc2c[n+:10]1[H:20] 10=20;20,21=21",
"Cc1[nH+]c2cc([NH2+:21][H:20])ccc2n1C.O=C1N[C@@H](Cc2c[n:10]c[nH]2)C(=O)N[C@H]1Cc1cnc[nH]1>>Cc1[nH+]c2cc([NH2:21])ccc2n1C.O=C1N[C@@H](Cc2c[n+:10]([H:20])c[nH]2)C(=O)N[C@H]1Cc1cnc[nH]1 10=20;20,21=21",
"CC[NH:10]CC[Se-].O=[N+]([O-])[CH:21](SC1=CC=CC=C1)[H:20]>>CC[NH+:10](CC[Se-])[H:20].O=[N+]([O-])[CH-:21]SC1=CC=CC=C1 10=20;20,21=21",
"NC(=O)NOCCC([NH3+])C(=O)[O:21][H:20].O[C@H]1CCCC[C@H]1[NH2:10]>>NC(=O)NOCCC([NH3+])C(=O)[O-:21].O[C@H]1CCCC[C@H]1[NH2+:10][H:20] 10=20;20,21=21",
"CC1=CSC2=[N:10]CCCN12.C[n+]1ccc([O:21][H:20])nc1>>CC1=CSC2=[N+:10]([H:20])CCCN12.C[n+]1ccc([O-:21])nc1 10=20;20,21=21",
"CC(C)c1ccc2c(c1)CC[C@H]1[C@](C)(C(=O)[O:21][H:20])CCC[C@]21C.NC1=[NH+][C@H]2C[C@@H](N1)[NH:10][C@@H]2C(=O)[O-]>>CC(C)c1ccc2c(c1)CC[C@H]1[C@](C)(C(=O)[O-:21])CCC[C@]21C.NC1=[NH+][C@H]2C[C@@H](N1)[NH+:10]([H:20])[C@@H]2C(=O)[O-] 10=20;20,21=21",
"CC(C)[NH:10]CC(=O)c1ccc([O-])cc1.[H][C:21](C(C)=O)(C(C)=O)[H:20]>>CC(C)[NH+:10](CC(=O)c1ccc([O-])cc1)[H:20].[H][C-:21](C(C)=O)C(C)=O 10=20;20,21=21",
"CC1CCCC(C(=O)[O:21][H:20])c2nnnn21.CCOc1cccc([NH2:10])c1>>CC1CCCC(C(=O)[O-:21])c2nnnn21.CCOc1cccc([NH2+:10][H:20])c1 10=20;20,21=21",
"C[N:10](C)CCCCCCNC(=O)/C=N/[O-].C[NH+](C)Cc1cc(F)ccc1[O:21][H:20]>>C[N+:10](C)(CCCCCCNC(=O)/C=N/[O-])[H:20].C[NH+](C)Cc1cc(F)ccc1[O-:21] 10=20;20,21=21",
"Nc1ccc2cnc[n:10]c2c1.O=CO[O:21][H:20]>>Nc1ccc2cnc[n+:10]([H:20])c2c1.O=CO[O-:21] 10=20;20,21=21",
"C[N+]1=CC=C([CH:21](C(=O)C2=CC=CC=C2)[H:20])C=C1.C[NH:10]CCCN>>C[N+]1=CC=C([CH-:21]C(=O)C2=CC=CC=C2)C=C1.C[NH+:10](CCCN)[H:20] 10=20;20,21=21",
"CC[NH:10]CC(=O)[O-].[H][C:21](C(C)=O)(C(C)=O)[H:20]>>CC[NH+:10](CC(=O)[O-])[H:20].[H][C-:21](C(C)=O)C(C)=O 10=20;20,21=21",
"CC[NH:10]CC[Se-].C[N+]1=CC=C([CH:21](S(=O)(=O)C2=CC=CC=C2)[H:20])C=C1>>CC[NH+:10](CC[Se-])[H:20].C[N+]1=CC=C([CH-:21]S(=O)(=O)C2=CC=CC=C2)C=C1 10=20;20,21=21",
"CCCC[NH:10]CCCC.O=C(C1=CC=CC=C1)[CH:21]([N+](=O)[O-])[H:20]>>CCCC[NH+:10](CCCC)[H:20].O=C(C1=CC=CC=C1)[CH-:21][N+](=O)[O-] 10=20;20,21=21",
"[NH3+]c1ccc(-c2c[n:10]c(-c3ccccc3)o2)cc1.c1ccc2c([O:21][H:20])cn[nH+]c2c1>>[NH3+]c1ccc(-c2c[n+:10]([H:20])c(-c3ccccc3)o2)cc1.c1ccc2c([O-:21])cn[nH+]c2c1 10=20;20,21=21",
